US06953806B2
2.15 g (5.3 mmol) of trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester were dissolved in 20.0 ml of methanol, 0.3 g palladium on charcoal (10%) were added and the reaction mixture hydrogenated at normal pressure until the consumption of hydrogen came to an end. Then, it was filtered over celite and evaporated giving 1.60 g (95.6%) of trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester as colorless viscous oil, MS: 315 (M+).

reactant | trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester | 5.3 mmol, 2.15 g | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)OCCCCOCC1=CC=CC=C1)=O | C24H39NO4
solvent | methanol | 20.0 ml | CO | CH4O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | trans-[4-(4-hydroxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester | 1.60 g, 95.6% | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)OCCCCO)=O | C17H33NO4
